data/oMe_Silver.jsonl
{"reaction_id": "NR-210_1-C(C)(C)C_2-c2ccc([N+](=O)[O-])cc2_3-C(C)(C)C","level": "medium","name": "Parikh-Doering Oxidation","reactants_smiles": ["O=S(C)(C(C)(C)C)","O(C(c2ccc([N+](=O)[O-])cc2)(C(C)(C)C))"],"products_smiles": ["O=C(c2ccc([N+](=O)[O-])cc2)C(C)(C)C"],"conditions": "Et3N,SO3,Py","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=CC=[N+](C=C1)[S](=O)(=O)[O-]","step_weight": 0,"rationale": "SO3 coordinates to pyridine due to pyridine’s nucleophilicity and the strong electrophilicity of sulfur, forming a reactive sulfonyl–pyridinium complex."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C[S+](C(C)(C)C)O[S](=O)(=O)[O-]","step_weight": 0,"rationale": "The alcohol oxygen attacks the activated sulfur center, as sulfur is highly electrophilic and pyridine is a good leaving group under these conditions."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([S](C(C)(C)C)(O([S](=O)(=O)[O-]))O(C(c2ccc([N+](=O)[O-])cc2)(C(C)(C)C)))","step_weight": 0,"rationale": "The alkoxide generated from the alcohol displaces a leaving group on sulfur, forming an alkoxysulfonium species stabilized by the electron-withdrawing sulfonyl group."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[S](C(C)(C)C)(=C)O(C(c2ccc([N+](=O)[O-])cc2)(C(C)(C)C))","step_weight": 0,"rationale": "Base-induced elimination occurs because the α-proton is acidic due to adjacent positively charged sulfur, generating a sulfur ylide intermediate."},{"step": 5,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "O=C(c2ccc([N+](=O)[O-])cc2)C(C)(C)C","step_weight": 0,"rationale": "The sulfur ylide undergoes a [2,3]-sigmatropic rearrangement, driven by formation of a stable carbonyl and relief of charge separation."}],"description": "In the Parikh–Doering oxidation, the alcohol is oxidized to a carbonyl compound under mild, non-aqueous conditions using SO3–pyridine and triethylamine. The sequence involves activation of the oxidant, formation of an alkoxysulfonium intermediate, elimination to a sulfur ylide, and rearrangement to the carbonyl product."}
{"reaction_id": "NR-130_1-CCCC_2-C(F)(F)F_3-CO","name": "Leimgruber-Batcho Indole Synthesis","level": "medium","reactants_smiles": ["O=[N+]([O-])c1ccccc1C(C(F)(F)F)=C(CO)N(CCCC)CCCC"],"products_smiles": ["c1ccc2c(c1)c(C(F)(F)F)c(CO)[nH]2"],"conditions": "[H]","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "Nc1ccccc1C(C(F)(F)F)=C(CO)N(CCCC)CCCC","rationale": "Single-electron transfer reduces the nitro group to an aniline, favored by the electron-rich aromatic ring and reductive conditions, stabilizing intermediates via resonance."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Nc1ccccc1C(C(F)(F)F)C(CO)=[N+](CCCC)CCCC","rationale": "The aniline nitrogen attacks the electrophilic iminium carbon intramolecularly; proximity and conjugation with the aromatic ring lower the activation barrier for cyclization."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1ccc2c(c1)C(C(F)(F)F)C(CO)=[NH+]2","rationale": "The aniline nitrogen attacks the electrophilic iminium carbon intramolecularly; proximity and conjugation with the aromatic ring lower the activation barrier for cyclization."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc2c(c1)c(C(F)(F)F)c(CO)[nH]2","rationale": "Elimination of the leaving group restores aromaticity in the newly formed five-membered ring, providing strong thermodynamic driving force for indole formation."}],"description": "Under reductive conditions, the nitro group is reduced to an aniline, which undergoes intramolecular cyclization via nucleophilic attack on an iminium intermediate, followed by elimination to yield the indole core. Electronic activation and proximity drive the ring closure."}
